US03943149
cis-2-[(6,7-Dihydroxy-5,6,7,8-tetrahydro-1-naphthyl)oxy]-2-methylpropionic acid, ethyl ester
Sodium hydride, 50% (0.75 mole) is added in portions with stirring to 50 ml. of cooled absolute ethyl alcohol. After the evolution of hydrogen has subsided, 0.075 mole of 6,7-dihydroxy-5,6,7,8-tetrahydro-1-naphthol is added, followed by the dropwise addition of 0.075 mole of ethyl α-bromoisobutyrate. The reaction mixture is refluxed with stirring for 16 hours. The solvent is evaporated in vacuo, the residue taken up in water and extracted with chloroform. The chloroform extract is washed with water, dried and freed of solvent to give the title compound in the form of an oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 6,7-dihydroxy-5,6,7,8-tetrahydro-1-naphthol | 0.075 mole | OC1CC=2C=CC=C(C2CC1O)O | C10H12O3
reactant | ethyl α-bromoisobutyrate | 0.075 mole | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethyl alcohol | C(C)O | C2H6O
product | cis-2-[(6,7-Dihydroxy-5,6,7,8-tetrahydro-1-naphthyl)oxy]-2-methylpropionic acid, ethyl ester | O[C@@H]1CC=2C=CC=C(C2C[C@@H]1O)OC(C(=O)OCC)(C)C | C16H22O5
